US09056859B2
A solution of 8-bromo-3,4-dihydro-2H-chromene-4-carboxylic acid (3.1 g, 12 mmol) in 50 mL THF was added BH3 (24 mL, 24 mmol, C=1.0 M in THF) dropwise at 0° C. The mixture was stirred at 0° C. for 2-3 hours before quenched with MeOH (8 mL), and evaporated. The residue was partitioned between water and EtOAc. The organic phase was washed with 3N HCl, saturated Na2CO3, and brine, dried over anhydrous Na2SO4 and concentrated to afford (8-bromo-3,4-dihydro-2H-chromen-4-yl)methanol.

reactant | 8-bromo-3,4-dihydro-2H-chromene-4-carboxylic acid | 12 mmol, 3.1 g | BrC=1C=CC=C2C(CCOC12)C(=O)O | C10H9BrO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (8-bromo-3,4-dihydro-2H-chromen-4-yl)methanol | BrC=1C=CC=C2C(CCOC12)CO | C10H11BrO2
